### PR TITLE
Fujisaki : units_cocompact modulo some sorries

### PR DESCRIPTION
**Pull request by WilliamCoram**
Working proof for units_cocompact.

### CODE REVIEW

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -190,6 +196,38 @@ instance : NonUnitalNonAssocRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
 instance : NonAssocSemiring (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
   Algebra.TensorProduct.instRing.toNonAssocSemiring
 
+-- all the below instances are needed and are not being found
+
+local instance : IsTopologicalRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This one you should be able to access with `open scoped TensorProduct.RightActions in` (perhaps after having imported `import FLT.Hacks.RightActionInstances`

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -190,6 +196,38 @@ instance : NonUnitalNonAssocRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
...
+  TensorProduct.RightActions.instIsTopologicalRing_fLT K (FiniteAdeleRing (𝓞 K) K) D
+
+local instance : LocallyCompactSpace (FiniteAdeleRing (𝓞 K) K) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This one should be on `main` now -- https://github.com/ImperialCollegeLondon/FLT/blob/05b60707d49bf88267ed63630b0544829c139ce9/FLT/NumberField/FiniteAdeleRing.lean#L26

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 3]
```diff
@@ -190,6 +196,38 @@ instance : NonUnitalNonAssocRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
...
+
+  sorry
+
+local instance :  LocallyCompactSpace (D ⊗[K] FiniteAdeleRing (𝓞 K) K) := by
+  exact TensorProduct.RightActions.instLocallyCompactSpaceOfIsTopologicalRing_fLT K
+    (FiniteAdeleRing (𝓞 K) K) D
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This is also in the RightActionInstances file and will be available if you open the scope

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 4]
```diff
@@ -190,6 +196,38 @@ instance : NonUnitalNonAssocRing (D ⊗[K] (FiniteAdeleRing (𝓞 K) K)) :=
...
+
+local instance : NonUnitalNonAssocRing (D ⊗[K] NumberField.InfiniteAdeleRing K) :=
+  let r := Algebra.TensorProduct.instRing.toNonUnitalRing
+  r.toNonUnitalNonAssocRing
+
+local instance : NonAssocSemiring (D ⊗[K] NumberField.InfiniteAdeleRing K) :=
+  Algebra.TensorProduct.instSemiring.toNonAssocSemiring
+
+local instance : IsTopologicalRing (D ⊗[K] NumberField.InfiniteAdeleRing K ×
+  D ⊗[K] FiniteAdeleRing (𝓞 K) K) := instIsTopologicalRingProd
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: These should also be in the scope. Basically try `open scoped TensorProduct.RightActions` and see what is now done by `inferInstance`.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 5]
```diff
@@ -199,11 +237,242 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
 
-open scoped TensorProduct.RightActions in
-theorem NumberField.FiniteAdeleRing.DivisionAlgebra.units_cocompact :
-    CompactSpace (Dfx K D ⧸ (incl₁ K D).range) := by
+variable [MeasurableSpace (D ⊗[K] NumberField.AdeleRing (𝓞 K) K)]
+  [BorelSpace (D ⊗[K] NumberField.AdeleRing (𝓞 K) K)]
+
+def iso₁ : (D ⊗[K] NumberField.AdeleRing (𝓞 K) K)ˣ ≃*
+    Prod (D ⊗[K] NumberField.InfiniteAdeleRing K)ˣ (Dfx K D) := by
+  simp_rw [NumberField.AdeleRing, Dfx]
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: You definitely shouldn't be making definitions with `simp_rw`, they will probably end up unusable. Just write down the term directly.

**Comment by WilliamCoram** [comment]
Note the TestingFile is a clean version of the Finiteness file - rather poorly named. The method can be seen easily there, then the mess of my progress can be seen in the other file.
